US07153873B2
1-acetyl-3-tert-butylamino-2-phenyl-imidazo[1,2-a]-pyrazin-1-ium chloride
Example 2 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-pyrazine (0.1 M, DCM), 0.575 ml (0.115 mmol) tert.-butylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) benzaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-pyrazine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CN=C1 | C4H5N3
reactant | tert.-butylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | benzaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-3-tert-butylamino-2-phenyl-imidazo[1,2-a]-pyrazin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C=NC=C2)NC(C)(C)C)C2=CC=CC=C2 | InChI=1S/C18H21N4O.ClH/c1-13(23)22-15-12-19-10-11-21(15)17(20-18(2,3)4)16(22)14-8-6-5-7-9-14;/h5-12,20H,1-4H3;1H/q+1;/p-1
